US07381719B2
6-[4-(2-Benzylaminoethyl)phenoxy]nicotinonitrile
Dissolve 6-[4-(2-aminoethyl)phenoxy]nicotinonitrile (2.09 g, 8.75 mmol) in methanol. Add 3 Å molecular sieves and benzaldehyde (0.89 mL, 8.75 mmol). Stir at room temperature for 18 hours. Add NaBH3CN (1.10 g). After the bubbling subsides, filter. Purify by flash chromatography, eluting with 3% (2.0 M NH3 in methanol) in dichloromethane to give the title compound: HRMS calcd for C22H20N3O 330.1620 (M+H)+, found 330.1620, time 0.39 min, MS TOF ES+ 330.2 (M+H)+; HPLC [YMC-Pack Pro C-18 (150×4.6 mm, S-5 microm), acetonitrile in water containing 0.01% concentrated HCl at 1.0 mL/min, 30-99% over 19 min], tR=2.4 min, 100% purity.

reactant | 6-[4-(2-aminoethyl)phenoxy]nicotinonitrile | 8.75 mmol, 2.09 g | NCCC1=CC=C(OC2=NC=C(C#N)C=C2)C=C1 | C14H13N3O
reactant | benzaldehyde | 8.75 mmol, 0.89 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | NaBH3CN | 1.10 g | [BH3-]C#N.[Na+]
solvent | methanol | CO | CH4O
product | 6-[4-(2-Benzylaminoethyl)phenoxy]nicotinonitrile | C(C1=CC=CC=C1)NCCC1=CC=C(OC2=NC=C(C#N)C=C2)C=C1 | C21H19N3O
